### PR TITLE
[Merged by Bors] - feat(Topology/Separation): filter of codiscrete sets

### PR DESCRIPTION
**Pull request by loefflerd**
This PR shows that, in any topological space, the sets whose complement is discrete and closed form a filter. (The only somewhat nontrivial step is to check that unions of discrete closed sets are discrete.)

This is intended as a preliminary for introducing meromorphic functions on opens in $\mathbb{C}$ (which are, by definition, holomorphic on a co-discrete set). 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/SubsetProperties.lean [hunk 1]
```diff
@@ -2041,3 +2041,32 @@ theorem IsPreirreducible.preimage {Z : Set α} (hZ : IsPreirreducible Z) {f : β
 #align is_preirreducible.preimage IsPreirreducible.preimage
 
 end Preirreducible
+
+section codiscrete
+
+/-- The empty subset of any topological space is a discrete set in its
+subspace topology. -/
+lemma discreteTopology_emptyset : DiscreteTopology ↑(∅ : Set α) :=
+  discreteTopology_iff_nhds.mpr (fun x ↦ False.elim x.property)
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:2050]: I'm surprised this is needed. Doesn't [Subsingleton.discreteTopology](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Order.html#Subsingleton.discreteTopology) apply?

File: Mathlib/Topology/SubsetProperties.lean [hunk 2]
```diff
@@ -2041,3 +2041,32 @@ theorem IsPreirreducible.preimage {Z : Set α} (hZ : IsPreirreducible Z) {f : β
...
+
+/-- We say a set `U` in a topological space `α` is *codiscrete* if it is
+open with discrete complement. -/
+def IsCodiscrete (U : Set α) : Prop := IsOpen U ∧ DiscreteTopology ↑Uᶜ
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:2054]: Do you have any use case in a non-regular setting? If not, I think we could live with only the definition of the filter, even if some of the properties hold more generally. Except if you want a separate definition specifically for dot notation?

File: Mathlib/Topology/SubsetProperties.lean [hunk 3]
```diff
@@ -2041,3 +2041,32 @@ theorem IsPreirreducible.preimage {Z : Set α} (hZ : IsPreirreducible Z) {f : β
...
+lemma IsCodiscrete.mono {U V : Set α} (hU : IsCodiscrete U) (hV : U ⊆ V) :
+    IsCodiscrete V := by
+  cases' hU with hU hU'
+  rw [←isClosed_compl_iff] at hU
+  rw [←compl_subset_compl] at hV
+  refine ⟨?_, DiscreteTopology.of_subset hU' hV⟩
+  let f : ↑Uᶜ → α := Subtype.val
+  have he := hU.closedEmbedding_subtype_val
+  simpa only [Subtype.image_preimage_val, inter_eq_self_of_subset_left hV,
+    isClosed_compl_iff] using he.isClosedMap _ (isClosed_discrete (f ⁻¹' Vᶜ))
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:2070]: You should be able to use [DiscreteTopology.of_subset](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Constructions.html#DiscreteTopology.of_subset) to simplify this proof.

Comment (loefflerd) [reply Mathlib/Topology/SubsetProperties.lean:2070]: DiscreteTopology.ofSubset is already used in the proof. It's entirely possible it can be used in a different, cleverer way, but I don't see it immediately; can you please elaborate on that? (The slightly fiddly thing is showing that `U` is closed, not that it is discrete in the subset topology.)

File: Mathlib/Topology/SubsetProperties.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/Topology/SubsetProperties.lean:2054]: The only use case I have is in the setting of open subsets of `ℂ`, I just thought it was mathlib convention to make every individual lemma as general as possible. 

I'm happy to inline the monotonicity, etc, into the definition of the filter, although I would prefer to keep "discreteTopology_union" as a separate lemma.

**Comment by loefflerd** [comment]
I've pushed a new version which inlines all the lemmas except one into the definition of the filter.

File: Mathlib/Topology/SubsetProperties.lean (hunk 3 above)
Comment (ADedecker) [reply Mathlib/Topology/SubsetProperties.lean]: My bad, I looked at it more closely, your proof is fine. It looked too long but I overlooked the "closed" part :facepalm:

**Comment by ADedecker** [comment]
I've thought a bit about it, I think you can simplify all the proofs using the following lemma:
```lean
theorem isClosed_and_discrete_iff {S : Set α} : IsClosed S ∧ DiscreteTopology S ↔
    ∀ x, 𝓝[≠] x ⊓ 𝓟 S = ⊥ := by
  rw [discreteTopology_subtype_iff, isClosed_iff_clusterPt, ← forall_and]
  congrm (∀ x, ?_)
  rw [← not_imp_not, clusterPt_iff_not_disjoint, not_not]
  constructor <;> intro H
  · by_cases hx : x ∈ S
    exacts [H.2 hx, (H.1 hx).mono_left inf_le_left |>.eq_bot]
  · refine ⟨fun hx ↦ ?_, fun _ ↦ H⟩
    simpa [disjoint_iff, nhdsWithin, inf_assoc, hx] using H
```

In particular this should avoid all case-bashing in the union lemma.

**Comment by ADedecker** [comment]
Oh and actually this shows that you never need regularity! So we don't lose any generality by only defining the filter.

File: Mathlib/Topology/SubsetProperties.lean [hunk 4]
```diff
@@ -2041,3 +2041,35 @@ theorem IsPreirreducible.preimage {Z : Set α} (hZ : IsPreirreducible Z) {f : β
...
+  rw [← not_imp_not, clusterPt_iff_not_disjoint, not_not, ←disjoint_iff]
+  constructor <;> intro H
+  · by_cases hx : x ∈ S
+    exacts [H.2 hx, (H.1 hx).mono_left nhdsWithin_le_nhds]
+  · refine ⟨fun hx ↦ ?_, fun _ ↦ H⟩
+    simpa [disjoint_iff, nhdsWithin, inf_assoc, hx] using H
+
+variable (α)
+
+/-- In a regular space, the open sets with with discrete complement form a filter. -/
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:2062]:
```suggestion
/-- In any topological space, the open sets with with discrete complement form a filter. -/
```

File: Mathlib/Topology/SubsetProperties.lean [hunk 5]
```diff
@@ -2041,3 +2041,35 @@ theorem IsPreirreducible.preimage {Z : Set α} (hZ : IsPreirreducible Z) {f : β
...
+def Filter.Codiscrete : Filter α where
+  sets := {U | IsOpen U ∧ DiscreteTopology ↑Uᶜ}
+  univ_sets := ⟨isOpen_univ, compl_univ.symm ▸ Subsingleton.discreteTopology⟩
+  sets_of_superset := by
+    intro U V hU hV
+    simp_rw [←isClosed_compl_iff, isClosed_and_discrete_iff] at hU ⊢
+    exact fun x ↦ (hU x).mono_right (principal_mono.mpr $ compl_subset_compl.mpr hV)
```
Comment (ADedecker) [inline Mathlib/Topology/SubsetProperties.lean:2069]:
```suggestion
    exact fun x ↦ (hU x).mono_right (principal_mono.mpr <| compl_subset_compl.mpr hV)
```
The use of `$` is now discouraged in favor of `<|`.

**Review by ADedecker — APPROVED** [review]
Thanks!

I left two small comments, then I'll ask on Zulip for some other maintainer to have a final look. Could you also edit the PR description to take into account that you no longer need regularity?

File: Mathlib/Topology/SubsetProperties.lean [hunk 6]
```diff
@@ -2041,3 +2041,35 @@ theorem IsPreirreducible.preimage {Z : Set α} (hZ : IsPreirreducible Z) {f : β
...
+  constructor <;> intro H
+  · by_cases hx : x ∈ S
+    exacts [H.2 hx, (H.1 hx).mono_left nhdsWithin_le_nhds]
+  · refine ⟨fun hx ↦ ?_, fun _ ↦ H⟩
+    simpa [disjoint_iff, nhdsWithin, inf_assoc, hx] using H
+
+variable (α)
+
+/-- In any topological space, the open sets with with discrete complement form a filter. -/
+def Filter.Codiscrete : Filter α where
```
Comment (ocfnash) [inline Mathlib/Topology/SubsetProperties.lean:2063]:
```suggestion
def Filter.codiscrete : Filter α where
```

**Review by ocfnash — APPROVED** [review]
Thanks!

I note that no API at all is provided for the new definition `Filter.codiscrete`, but this can come later.

I also note that the file `Topology/SubsetProperties.lean` is already over 2k lines so I encourage PRs to split it up.

bors d+
